US07479502B2
Proceeding as in Reference 19, but substituting 3-bromo-5-formyl-4-methoxy-benzenesulfonamide and benzene boronic acid, gave 5-formyl-6-methoxy-biphenyl-3-sulfonic acid amide.

reactant | 3-bromo-5-formyl-4-methoxy-benzenesulfonamide | BrC=1C=C(C=C(C1OC)C=O)S(=O)(=O)N | C8H8BrNO4S
reactant | benzene boronic acid | C1(=CC=CC=C1)B(O)O | C6H7BO2
product | 5-formyl-6-methoxy-biphenyl-3-sulfonic acid amide | C(=O)C=1C=C(C=C(C1OC)C1=CC=CC=C1)S(=O)(=O)N | C14H13NO4S
